US06794402B2
The free base of 6-{trans-4-[3-(4-fluorophenyl)-propylamino]cyclohexyl}-3H-benzoxazol-2-one was made by the addition of K2CO3 (140 mg, 1.0 mmol) to 6-{trans-4-[3-(4-fluorophenyl)propylamino]-cyclohexyl}-3H-benzoxazol-2-one hydrochloride (400 mg, 1.0 mmol) in THF (40 mL). The solution was warmed to dissolve the free base and then cooled to room temperature. Isobutyraldehyde (280 mg, 4.0 mmol) was added, followed by NaBH(OAc)3 (420 mg, 2.0 mmol) after 10 minutes. The reaction mixture was stirred for 2.5 days and then concentrated under reduced pressure. The solution was diluted with MeOH and brought to pH=10 with solid NaOH. The solution was then concentrated under reduced pressure. Purification by flash chromatography (silica, 95:4.75:0.25 CH2Cl2:MeOH:NH4OH), followed by formation of the HCl salt, gave 6-(trans-4-{[3-(4-fluorophenyl)propyl]-isobutylamino}cyclohexyl)-3H-benzoxazol-2-one (327 mg, 46%), as a white solid: mp 199-201° C.; IR (KBr): 2941, 1769, 1510 cm−1; 1H NMR (500 MHz, DMSO-d6): δ 11.51 (s, 1H), 9.16 (brs, 1H), 7.32-7.29 (m, 2H), 7.17-7.12 (m, 3H), 6.99 (s, 2H), 3.38-3.33 (m, 1H), 3.13-3.03 (m, 3H), 2.86-2.80 (m, 1H), 2.66-2.62 (m, 2H), 2.58-2.51 (m, 1H), 2.13-1.97 (m, 5H), 1.92-1.87 (m, 2H), 1.74-1.56 (m, 4H), 1.02-0.98 (m, 6H); ESI-MS (m/z): 425 [M+H]+; HPLC: method A, 6.38 minutes (98.7%); Anal. Calcd for C26H33FN2O2.HCl: C, 67.74; H, 7.43; N, 6.08. Found: C, 67.65; H, 7.29; N, 5.93.

reactant | 6-{trans-4-[3-(4-fluorophenyl)-propylamino]cyclohexyl}-3H-benzoxazol-2-one | FC1=CC=C(C=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1 | C22H25FN2O2
reactant | K2CO3 | 1.0 mmol, 140 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-{trans-4-[3-(4-fluorophenyl)propylamino]-cyclohexyl}-3H-benzoxazol-2-one hydrochloride | 1.0 mmol, 400 mg | Cl.FC1=CC=C(C=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1
reactant | Isobutyraldehyde | 4.0 mmol, 280 mg | C(C(C)C)=O | C4H8O
reactant | NaBH(OAc)3 | 2.0 mmol, 420 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 6-(trans-4-{[3-(4-fluorophenyl)propyl]-isobutylamino}cyclohexyl)-3H-benzoxazol-2-one | 327 mg, 46% | FC1=CC=C(C=C1)CCCN([C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1)CC(C)C | C26H33FN2O2
